US07754747B2
A suspension of 2-(2-butyl-1-benzofuran-3-yl)-5-(6-methoxy-2-naphthyl)-1,3-oxazole (1.82 g, 4.58 mmol), prepared in the previous step, in 85 mL of glacial acetic acid plus 50 mL of 48% aqueous HBr was stirred under nitrogen at 120° C. for 4 h. The volatiles were removed under reduced pressure. The residue was taken up in 10% methanol in methylene chloride and then made basic by the addition of an excess of 5% NaHCO3. The layers were separated and the aqueous layer extracted three times with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give 6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthol (1.49 g, 85%) as a pale yellow solid, mp 184-186° C. Elemental Analysis for C25H21NO3Calc'd: C, 78.31; H, 5.52; N, 3.65. Found: C, 77.35; H, 5.39; N, 3.48

reactant | 2-(2-butyl-1-benzofuran-3-yl)-5-(6-methoxy-2-naphthyl)-1,3-oxazole | 4.58 mmol, 1.82 g | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C1=CC3=CC=C(C=C3C=C1)OC)C=CC=C2 | C26H23NO3
reactant | HBr | 50 mL | Br | BrH
solvent | acetic acid | 85 mL | C(C)(=O)O | C2H4O2
product | 6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthol | 1.49 g, 85% | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)O)C=CC=C2 | C25H21NO3
